US07981903B2
A solution of 4-methyl-3-nitroaniline (1.0 g, 6.58 mmol, Lancaster), triethylamine (2.00 g, 19.7 mmol, Aldrich), and chloroacetyl chloride (0.96 g, 8.55 mmol) in THF (50 mL) was stirred overnight at rt. The reaction was washed with 1M HCl (50 mL), concentrated by rotary evaporation, and placed under high vacuum to give 2-chloro-N-(4-methyl-3-nitrophenyl)acetamide (1.35 g, 90%). ESIMS (M+H)+=229.

reactant | 4-methyl-3-nitroaniline | 6.58 mmol, 1.0 g | CC1=C(C=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | triethylamine | 19.7 mmol, 2.00 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 8.55 mmol, 0.96 g | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-chloro-N-(4-methyl-3-nitrophenyl)acetamide | 1.35 g, 90% | ClCC(=O)NC1=CC(=C(C=C1)C)[N+](=O)[O-] | C9H9ClN2O3
